US05998433
a) Synthesis of N,N-dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine
To a solution of 1.030 g (4.829 mmol) of 6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 30 ml of acetic acid, 0.52 g (5.80 mmol) of 50% aqueous dimethylamine and 0.47 g (5.80 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 15 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 4.829 mmol, 1.030 g | C(C1=CC=CC=C1)C1CC2=C(CN1)C=CO2 | C14H15NO
reactant | dimethylamine | 5.80 mmol, 0.52 g | CNC | C2H7N
reactant | formaldehyde | 5.80 mmol, 0.47 g | C=O | CH2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine | CN(C)CC1=CC=2CNC(CC2O1)CC1=CC=CC=C1 | C17H22N2O
